US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 3,4-dimethylbenzylamine (0.09 mL, 0.636 mmol), Pd2(dba)3 (58 mg, 0.063 mmol), rac-BINAP (104 mg, 0.167 mmol) and NaOtBu (155 mg, 1.613 mmol) in DMA (6 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(3,4-dimethyl-benzylamino)-2H-phthalazin-1-one (21 mg) as a white solid, 1H (400 MHz, d6-DMSO) δ: 2.15 (d, 6H), 4.25 (d, 2H), 6.79 (s, 1H), 7.05 (s, 2H), 7.10 (m, 2H), 7.57 (t, 1H), 7.87 (d, 1H), 12.30 (s, 1H) ppm; m/z (M+1) 313.99.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3,4-dimethylbenzylamine | 0.636 mmol, 0.09 mL | CC=1C=C(CN)C=CC1C | C9H13N
reactant | rac-BINAP | 0.167 mmol, 104 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.613 mmol, 155 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.063 mmol, 58 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(3,4-dimethyl-benzylamino)-2H-phthalazin-1-one | 21 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=C(C=C1)C)C)=O | C17H16ClN3O
